US07151070B2
Oxidative Coupling of 2-naphthol and its Derivatives Catalyzed by 1c
A reaction flask described in example 9 was charged with a solution of catalyst 1c (12.2 mg, 0.02 mmol) in anhydrous CCl4 (1 mL). The solution was stirred for 10 min under an oxygen atmosphere and then treated with a solution of 7-methoxy-2-naphthol (35 mg, 0.2 mmol) in anhydrous CCl4 (1 mL) under 0° C. The reaction mixture was stirred at 0° C. until the reaction was complete (monitored by TLC). The crude mixture was concentrated under reduced pressure, and purified by column chromatography (Ethyl acetate/Petroleum ether=⅓) to give (R)-BINOL 3b, Yield 95%. [α]D25=−104.7 (c=0.35 in EtOAc), 1HNMR (300 MHz, CDCl3) δ (ppm) 7.88 (d, J=9.0 Hz, 2H, 2×HC (5)), 7.79 (d, J=9.0 Hz, 2H, 2×HC (4)), 7.22 (d, J=8.7 Hz, 2H, 2×HC (3)), 7.03 (dd, J=9.0 Hz, 2.4 Hz, 2H, 2×HC (6)), 6.49 (d, J=2.4 Hz, 2H, 2×HC (8)), 5.08 (s, 2H, 2×OH), 3.59 (s, 6H, 2×OCH3). e.e. 95%, and the configuration was R (Kromasil CHI-TBB column, Hexane/propan-2-ol=80: 20; flow rate 1 mL/min; S-isomer, tR 4.95 min and R-isomer, tR 5.32 min).

reactant | Hexane propan-2-ol | CCCCCC.CC(C)O
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
